US04382939
1,2,3,4-Tetrahydro-8,9-dimethyl-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one
A mixture of 1,2,3,4-tetrahydro-8,9-dimethyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one (30 g, 0.13 mole), 1-chloro-2-propanone (23.6 g, 0.25 moles), and triethylamine (27.3 g, 0.27 moles) in 550 ml of absolute ethanol is stirred at reflux for 21 hours. The reaction mixture is evaporated, and the residue is partitioned between dichloromethane (700 ml) and water (500 ml). The two-phase mixture is made basic with conc. ammonium hydroxide, the layers are separated, and the aqueous phase is extracted with fresh dichloromethane. The combined organic layers are backwashed with water, dried over sodium sulfate, and evaporated. Recrystallization of the residue from absolute ethanol yielded the product (23.5 g), mp 136°-138° C.

reactant | 1,2,3,4-tetrahydro-8,9-dimethyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.13 mole, 30 g | CC1=CC2=C(C=C1C)C1=C(CNCC1)C(O2)=O | C14H15NO2
reactant | 1-chloro-2-propanone | 0.25 moles, 23.6 g | ClCC(C)=O | C3H5ClO
reactant | triethylamine | 0.27 moles, 27.3 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 550 ml | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-8,9-dimethyl-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 23.5 g | CC1=CC2=C(C=C1C)C1=C(CN(CC1)CC(C)=O)C(O2)=O | C17H19NO3
